US08754079B2
33.3 4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
0.029 g EDC was added to a mixture of 0.050 g 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd. 33.2) and 0.020 g 1-hydroxy-pyrrolidine-2,5-dione in 1 ml DMF and stirred at rt over the weekend. After the addition of 0.327 ml ammonia (7M) the reaction mixture was stirred at rt for further 1.5 hours. The mixture was concentrated and the residue was recrystallized from hot MeOH.

reactant | EDC | 0.029 g
reactant | 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.050 g | FC1(CCC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)F | C20H18F3N3O3S
reactant | 1-hydroxy-pyrrolidine-2,5-dione | 0.020 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | ammonia | 7M, 0.327 ml | N | H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1(CCC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)F | C20H19F3N4O2S
